US06498165B1
2-[(S)-1-phenylethylamino]-4-[5-(pyridin-4-yl)aminobenzimidazol-1-yl]pyrimidine
2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine (49.8 mg) was dissolved in DMF (2 mL). Diisopropylethylamine (79 μL) and 4-bromopyridine hydrochloride (43.2 mg) were added, and the mixture left heating overnight at 100° C. After 17 h added more diisopropylethylamine (79 μL) and 4-bromopyridine hydrochloride (40.2 mg) and continued heating at 100° C. for another 24 h. The volatiles were removed in vacuo and the residue purified on silica gel (2-5%(2M NH3 in MeOH)/CH2Cl2) to yield 5.0 mg of impure product that was purified by HPLC (Zorbax Rx-SIL, 60:40 hexanes:ethanol) to yield 3.0 mg of the title compound. Mass spectrum (ESI) 408.4 (M+1).

reactant | 2-[(S)-1-phenylethylamino]-4-[5-aminobenzimidazol-1-yl]pyrimidine | 49.8 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)N | C19H18N6
reactant | Diisopropylethylamine | 79 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromopyridine hydrochloride | 43.2 mg | Cl.BrC1=CC=NC=C1
reactant | diisopropylethylamine | 79 μL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4-bromopyridine hydrochloride | 40.2 mg | Cl.BrC1=CC=NC=C1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 2-[(S)-1-phenylethylamino]-4-[5-(pyridin-4-yl)aminobenzimidazol-1-yl]pyrimidine | 5.0 mg | C1(=CC=CC=C1)[C@H](C)NC1=NC=CC(=N1)N1C=NC2=C1C=CC(=C2)NC2=CC=NC=C2 | C24H21N7
